US08242104B2
Step 4: 4-Chloro-6-methoxy-nicotinamidine hydrochloride
To a solution of 4-chloro-6-methoxy-nicotinonitrile (10.1 g, 59.7 mmol) in THF (300 mL) at −78° C. was added LiHMDS (65.7 mL) dropwise and the reaction mixture stirred for 30 min before allowing to warm to RT and stirring for a further 1 h. The reaction was quenched by the addition of 1N HCl (to pH˜1) and then extracted three times with ethyl acetate. The aqueous layer was concentrated in vacuo to give brown solid which was azeotroped with toluene to give the title compound as a tan solid. Mixture with ammonium chloride, 72% title compound by weight. (15.2 g, 83%). 1H NMR 400 MHz (DMSO-d) δ: 9.68 (4H, d, J=15.79 Hz), 8.46 (1H, s), 7.47 (5H, t, J=50.66 Hz), 7.27 (1H, s), 3.95 (3H, s).

reactant | 4-chloro-6-methoxy-nicotinonitrile | 59.7 mmol, 10.1 g | ClC1=CC(=NC=C1C#N)OC | C7H5ClN2O
reactant | LiHMDS | 65.7 mL | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
solvent | THF | 300 mL | C1CCOC1 | C4H8O
product | 4-Chloro-6-methoxy-nicotinamidine hydrochloride | Cl.ClC1=CC(=NC=C1C(=N)N)OC | InChI=1S/C7H8ClN3O.ClH/c1-12-6-2-5(8)4(3-11-6)7(9)10;/h2-3H,1H3,(H3,9,10);1H
